US04917817
In a two-necked round-bottomed flask replaced with nitrogen, 67 mg of lithium aluminum hydride and dry ether were placed and cooled with ice, and a solution of 0.41 g of (+)-3-trifluoromethyl-1-nonanoic acid in 2 ml of dry ether was added dropwise thereto. The mixture was stirred for 4 hours on an ice bath for reaction, and a saturated sodium sulfate aqueous solution was added thereto, followed by decantation to recover the ether layer. The ether solution was dried on sodium sulfate, followed by distilling-off of the solvent and distillation by means of a Kugelrohr distiller at 110° C./28 mmHg to obtain 290 mg (yield: 66%) of (+)-3-trifluoromethyl-1-nonanol. [α]D28 +1.82 (c 6.03, CHCl3).

reactant | lithium aluminum hydride | 67 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (+)-3-trifluoromethyl-1-nonanoic acid | 0.41 g | FC(C(CC(=O)O)CCCCCC)(F)F | C10H17F3O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 2 ml | CCOCC | C4H10O
product | (+)-3-trifluoromethyl-1-nonanol | 290 mg, yield: 66% | FC(C(CCO)CCCCCC)(F)F | C10H19F3O
